US07585886B2
A 2.0 ml 1,4-dioxane solution of 145 mg of 2-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin 1-yl]carbonyl}oxy)benzoic acid was mixed with 1.0 ml of 4 M hydrogen chloride/1,4-dioxane at room temperature and stirred overnight at room temperature. The reaction solution was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 39 mg of 2-({[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid as a colorless amorphous substance.

reactant | 2-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin 1-yl]carbonyl}oxy)benzoic acid | 145 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=C(C(=O)O)C=CC=C1 | C36H38N2O6
reactant | hydrogen chloride 1,4-dioxane | 4 M, 1.0 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
product | 2-({[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid | 39 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=C(C(=O)O)C=CC=C1 | C31H30N2O4
